US07655666B2
To a solution of 2-acetylamino-5-[1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester (1.1 g, 2.83 mmol) in CCl4 (18 mL) was added N-chlorosuccinimide (770 mg, 5.65 mmol). The reaction vessel was flushed with argon and the reaction mixture was heated to 110° C. for 38 h. After cooling to r.t., the mixture was filtered and the filtrate was concentrated in vacuo to provide the intermediate 2-acetylamino-5-[2,2-dichloro-1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester which was used directly in the next step. (API-ES: m/z 455.9 [M−H]−, rt 5.04 min).

reactant | 2-acetylamino-5-[1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester | 2.83 mmol, 1.1 g | COC(C1=C(C=C(C(=C1)C(C)=NNC(=O)OCC)C(F)(F)F)NC(C)=O)=O | C16H18F3N3O5
reactant | N-chlorosuccinimide | 5.65 mmol, 770 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | CCl4 | 18 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-acetylamino-5-[2,2-dichloro-1-(ethoxycarbonyl-hydrazono)-ethyl]-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(C(Cl)Cl)=NNC(=O)OCC)C(F)(F)F)NC(C)=O)=O | C16H16Cl2F3N3O5
